US07759337B2
Synthesis of N-cyclopropyl-3-(1-(5-isopropyl-2.5-diaza-bicyclo[2.2.1]heptan-2-yl)phthalazin-6-yl)-4-methylbenzamide
A mixture of 2-(6-bromophthalazin-1-yl)-5-isopropyl-2,5-diaza-bicyclo[2.2.1]heptane (60 mg, 173 μmol), N-cyclopropyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (52 mg, 173 μmol) and tetrakis(triphenylphosphine)palladium (10 mg, 9 μmol)in 5 mL DME/EtOH (4:1) was treated with 2M potassium carbonate (0.5 mL, 1 mmol) at 22° C. under nitrogen. The mixture was heated up to 90° C. and stirred for 1 h. The reaction was monitored by MS. After about 1 h at 90° C., MS showed all starting material was converted to product (M+1=442). The mixture was cooled down to room temperature (22° C.). The mixture was transferred directly to silica gel and purified via flash chromatography (silica gel) eluting with a gradient of 2% 2 M ammonia in MeOHIDCM to 6% 2 M ammonia in MeOH/DCM to give the title compound (60 mg). Found MS (ES+): 442(M+H)+.

reactant | 2-(6-bromophthalazin-1-yl)-5-isopropyl-2,5-diaza-bicyclo[2.2.1]heptane | 173 μmol, 60 mg | BrC=1C=C2C=NN=C(C2=CC1)N1C2CN(C(C1)C2)C(C)C | C16H19BrN4
reactant | N-cyclopropyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 173 μmol, 52 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)B1OC(C(O1)(C)C)(C)C)=O | C17H24BNO3
reactant | potassium carbonate | 1 mmol, 2M, 0.5 mL | C([O-])([O-])=O.[K+].[K+]
solvent | DME EtOH | 5 mL | COCCOC.CCO
catalyst | tetrakis(triphenylphosphine)palladium | 9 μmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-cyclopropyl-3-(1-(5-isopropyl-2.5-diaza-bicyclo[2.2.1]heptan-2-yl)phthalazin-6-yl)-4-methylbenzamide | 60 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)C=1C=C2C=NN=C(C2=CC1)N1C2CN(C(C1)C2)C(C)C)=O | C27H31N5O
